US08871756B2
1-Amino-3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}-2-methylpropan-2-ol
The title compound was prepared in analogy to Example 11-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 1,3-diamino-2-methylpropan-2-ol. MS obsd. (ESI+) [(M+H)+] 441, 1H NMR (400 MHz, CD3OD) δ ppm 7.97 (d, J=7.6 Hz, 1 H), 7.88 (d, J=7.6 Hz, 1 H), 7.60 (t, J=7.6 Hz, 1 H), 7.57 (s, 1 H), 7.43 (m, 2 H), 7.29 (dd, J=1.2, 8.4 Hz, 1 H), 6.18 (s, 1 H), 5.15 (s, 2 H), 4.53 (brs, 2 H), 3.58 (t, J=4.4 Hz, 2 H), 3.34 (m, 2 H), 2.85-2.76 (m, 2 H), 2.42 (s, 3 H), 1.32 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1,3-diamino-2-methylpropan-2-ol | NCC(CN)(O)C | C4H12N2O
product | 1-Amino-3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}-2-methylpropan-2-ol | NCC(CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)(O)C | C23H28N4O3S
